US06268354B1
To a solution of ethyl 7-(4-chlorophenyl)-2,3-dihydro-1-benzoxepine-4-carboxylate (400 mg) in tetrahydrofuran-ethanol (10-10 ml) was added 1N sodium hydroxide (2.0 ml) at room temperature, and the mixture was stirred for 42 hours and concentrated under reduced pressure. To the residue was added 1N hydrochloric acid (15 ml), and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, dried with magnesium sulfate and concentrated. The resulting crystal was collected by filtration to give 7-(4-chlorophenyl)-2,3-dihydro-1-benzoxepine-4-carboxylic acid (342 mg) as colorless crystals.

reactant | ethyl 7-(4-chlorophenyl)-2,3-dihydro-1-benzoxepine-4-carboxylate | 400 mg | ClC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCO2)C(=O)OCC)C1 | C19H17ClO3
reactant | sodium hydroxide | 1N, 2.0 ml | [OH-].[Na+]
solvent | tetrahydrofuran-ethanol | 10-10 ml | O1C(CCC1)CCO | C6H12O2
product | 7-(4-chlorophenyl)-2,3-dihydro-1-benzoxepine-4-carboxylic acid | 342 mg | ClC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCO2)C(=O)O)C1 | C17H13ClO3
